US08202879B2
In 180 ml of tetrahydrofuran were dissolved 4-chloro-6-iodoquinazoline (6.0 g) and 3-chloro-4-(3-fluorobenzyloxy)aniline (II-1, 5.2 g), followed by heat refluxing for 3 hours. A precipitate was filtered, and washed with tetrahydrofuran to obtain 4-(4-(3-fluorobenzyloxy)phenylamino)-6-iodoquinazoline hydrochloride (III-1, 10.5 g) as a yellow solid.

reactant | 4-chloro-6-iodoquinazoline | 6.0 g | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 3-chloro-4-(3-fluorobenzyloxy)aniline | 5.2 g | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 4-(4-(3-fluorobenzyloxy)phenylamino)-6-iodoquinazoline hydrochloride | 10.5 g | Cl.FC=1C=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)I)C=CC1 | InChI=1S/C21H15FIN3O.ClH/c22-15-3-1-2-14(10-15)12-27-18-7-5-17(6-8-18)26-21-19-11-16(23)4-9-20(19)24-13-25-21;/h1-11,13H,12H2,(H,24,25,26);1H
